US05153227
Thionyl chloride (0.33 ml, 4.5 mmol) was added dropwise to a stirred solution of (4-carboxyphenylsulphonyl)nitromethane (1.0 g, 4 mmol) in methanol (12 ml) cooled in an ice-salt bath. The mixture was stirred for 16 hours at ambient temperature and the solvent evaporated. The residue was purified by MPLC eluting with dichloromethane, gradually increasing to methanol/dichloromethane (1:50 v/v), to give (4-methoxycarbonylphenylsulphonyl)nitromethane (0.45 g), m.p. 106°-108° C.; microanalysis, found: C, 41.8; H, 3.5; N, 5.2%; C9H9NO6S requires: C, 41.7; H, 3.5: N, 5.4%.

reactant | Thionyl chloride | 4.5 mmol, 0.33 ml | S(=O)(Cl)Cl | Cl2OS
reactant | (4-carboxyphenylsulphonyl)nitromethane | 4 mmol, 1.0 g | C(=O)(O)C1=CC=C(C=C1)S(=O)(=O)C[N+](=O)[O-] | C8H7NO6S
reactant | methanol | 12 ml | CO | CH4O
product | (4-methoxycarbonylphenylsulphonyl)nitromethane | 0.45 g | COC(=O)C1=CC=C(C=C1)S(=O)(=O)C[N+](=O)[O-] | C9H9NO6S
